US07335771B2
2,5-Bis{(4-methoxyphenyl)amino}terephthalic acid (1.02 gm; 2.5 mmol) and polyphosphoric acid (10 gm) were heated at 160° C. for 15 minutes under a nitrogen atmosphere. The mixture was allowed to cool and then poured into iced water (200 ml) when a purple solid precipitated out. This was filtered off, washed with water and methanol, then dried under vacuum over phosphorous pentoxide to give 948 mg (100%) of 2,9-dimethoxyquinacridone.

reactant | 2,5-Bis{(4-methoxyphenyl)amino}terephthalic acid | 2.5 mmol, 1.02 gm | COC1=CC=C(C=C1)NC1=C(C(=O)O)C=C(C(=C1)C(=O)O)NC1=CC=C(C=C1)OC | C22H20N2O6
solvent | water | 200 ml | O | H2O
product | 2,9-dimethoxyquinacridone | 948 mg, 100% | COC1=CC2=C(C=C1)NC3=CC4=C(C=C3C2=O)NC5=C(C4=O)C=C(C=C5)OC | C22H16N2O4
